US04226775
3-(4-Methoxy-1-naphthoyl)propionic acid is coupled to L-proline as described in Examples 15 and 16 to give 1-[3-(4-methoxy-1-naphthoyl)propionyl]-L-proline. The preciding compound is reacted with bromine in acetic acid as in Example 26 and the product reacted with potassium thioacetate in ethanol to give the product of the Example as a glass.

reactant | 3-(4-Methoxy-1-naphthoyl)propionic acid | COC1=CC=C(C2=CC=CC=C12)C(=O)CCC(=O)O | C15H14O4
reactant | L-proline | N1[C@H](C(=O)O)CCC1 | C5H9NO2
product | 1-[3-(4-methoxy-1-naphthoyl)propionyl]-L-proline | COC1=CC=C(C2=CC=CC=C12)C(=O)CCC(=O)N1[C@H](C(=O)O)CCC1 | C20H21NO5
